US08466282B2
Ethyl 1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate
1-Azido-2-fluorobenzene (1.0 g) and ethyl propiolate (2.2 g) were dissolved in toluene (12 ml) and the mixture was stirred at 100° C. for 13 hr. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-80:20) was concentrated under reduced pressure to give the object product (111 mg).

reactant | 1-Azido-2-fluorobenzene | 1.0 g | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | ethyl propiolate | 2.2 g | C(C#C)(=O)OCC | C5H6O2
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-(2-fluorophenyl)-1H-1,2,3-triazole-4-carboxylate | 111 mg | FC1=C(C=CC=C1)N1N=NC(=C1)C(=O)OCC | C11H10FN3O2
